US04177344
A solution of 10 g of 1,6-anhydro-3-O-benzyl-2-O-tetrahydropyranyl-β-D-gulopyranose in 20 ml of absolute dimethylsulphoxide is treated with 3 g of potassium hydroxide powder, while stirring and with the exclusion of moisture, in a nitrogen atmosphere, and the mixture is warmed to 50° C. A solution of 3 ml of propyl bromide in 10 ml of dimethylsulphoxide is added dropwise at this temperature in the course of 2 hours and the reaction mixture is stirred for a further 3 hours. A further 3 g of potassium hydroxide powder are added, a solution of 3 ml of propyl bromide in 10 ml of dimethylsulphoxide is added dropwise and the mixture is stirred for 2 hours. The reaction mixture is now cooled and poured into ice-water. The resulting mixture is extracted with ether and the ether phase is washed with water until neutral and dried over magnesium sulphate. After evaporating off the solvent, 1,6-anhydro-3-O-benzyl-4-O-propyl-2-O-tetrahydropyranyl-β-D-gulopyranose is obtained in the form of yellow oil with a Rf value of 0.42 on silica gel thin layer plates in the system methylene chloride/ethyl acetate, 85:15.

reactant | 1,6-anhydro-3-O-benzyl-2-O-tetrahydropyranyl-β-D-gulopyranose | 10 g | C(C1=CC=CC=C1)O[C@H]1[C@H]([C@H]2O[C@@H]([C@@H]1O)CO2)OC2OCCCC2 | C18H24O6
reactant | potassium hydroxide | 3 g | [OH-].[K+]
reactant | propyl bromide | 3 ml | C(CC)Br | C3H7Br
reactant | potassium hydroxide | 3 g | [OH-].[K+]
reactant | propyl bromide | 3 ml | C(CC)Br | C3H7Br
solvent | dimethylsulphoxide | 20 ml | CS(=O)C | C2H6OS
solvent | dimethylsulphoxide | 10 ml | CS(=O)C | C2H6OS
solvent | dimethylsulphoxide | 10 ml | CS(=O)C | C2H6OS
product | 1,6-anhydro-3-O-benzyl-4-O-propyl-2-O-tetrahydropyranyl-β-D-gulopyranose | C(C1=CC=CC=C1)O[C@H]1[C@H]([C@H]2O[C@@H]([C@@H]1OCCC)CO2)OC2OCCCC2 | C21H30O6
